US08486962B2
A mixture of p-amino benzonitrile (2 g, 16.9 mmol), triethylamine hydrochloride (3.49 g, 25.38 mmol) and sodium azide (1.65 g, 25.38 mmol) were taken in anhydrous toluene (20 ml) and heated to reflux for 24 hr. The reaction mixture was cooled to room temperature and neutralized with dilute hydrochloric acid. The resultant precipitate was filtered, washed with water then dried to give 4-(1H-tetrazol-5-yl)-phenylamine (1.2 g, 44%).

reactant | p-amino benzonitrile | 16.9 mmol, 2 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | triethylamine hydrochloride | 25.38 mmol, 3.49 g | Cl.C(C)N(CC)CC
reactant | sodium azide | 25.38 mmol, 1.65 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1H-tetrazol-5-yl)-phenylamine | 1.2 g, 44% | N1N=NN=C1C1=CC=C(C=C1)N | C7H7N5
